US09102688B2
5,6-Difluoro-8-nitroquinoline (Intermediate 37)
In a similar fashion using route 10 general procedure 20, 4,5-difluoro-2-nitroaniline (200 mg, 1.15 mmol), glycerol (330 mg, 3.56 mmol), 3-nitrobenzenesulfonic acid sodium salt (336 mg, 1.49 mmol) and H2SO4/H2O (1.2 ml, 7:5) gave the title compound (200 mg, 83%) after purification by column chromatography with DCM as the eluent.

reactant | 4,5-difluoro-2-nitroaniline | 1.15 mmol, 200 mg | FC1=CC(=C(N)C=C1F)[N+](=O)[O-] | C6H4F2N2O2
reactant | glycerol | 3.56 mmol, 330 mg | OCC(O)CO | C3H8O3
reactant | 3-nitrobenzenesulfonic acid sodium salt | 1.49 mmol, 336 mg | [Na+].[N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
reactant | H2SO4 H2O | 1.2 ml | OS(=O)(=O)O.O
product | 5,6-Difluoro-8-nitroquinoline | 200 mg, 83% | FC1=C2C=CC=NC2=C(C=C1F)[N+](=O)[O-] | C9H4F2N2O2
